US07897607B2
2-Amino-3-ethyl-5-mesityl-7-methyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one
To a solution of 2-amino-5-mesityl-7-methyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one (88 mg, 0.31 mmol) and N,N-dimethylformamide (3 ml) was added sodium hydride (60% in oil, 16 mg, 0.40 mmol) at 0° C. and stirred for 0.5 hour. After stirring at room temperature for 0.5 hour, to the mixture was added a solution of ethyl iodide (62 mg, 0.40 mmol) and N,N-dimethylformamide (1 ml) at 0° C. and stirred for 0.5 hour. After stirring at room temperature for 3 hours, the mixture was diluted with water (20 ml) and extracted with ethyl acetate (50 ml×3). The extracts were combined, washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel chromatography eluting with hexane/ethyl acetate (3:1) to give 53 mg (55%) of the title compound.

reactant | 2-amino-5-mesityl-7-methyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one | 0.31 mmol, 88 mg | NC=1NC(C2=C(N1)N(C=C2C2=C(C=C(C=C2C)C)C)C)=O | C16H18N4O
reactant | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.40 mmol, 16 mg | [H-].[Na+]
reactant | ethyl iodide | 0.40 mmol, 62 mg | C(C)I | C2H5I
reactant | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
product | 2-Amino-3-ethyl-5-mesityl-7-methyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one | 53 mg, 55% | NC=1N(C(C2=C(N1)N(C=C2C2=C(C=C(C=C2C)C)C)C)=O)CC | C18H22N4O
